### PR TITLE
[Merged by Bors] - feat(Data/Set/Image): `Sum.elim` lemmas

### PR DESCRIPTION
**Pull request by plp127**
This PR adds some `Sum.elim` lemmas for images and preimages of sets.
Used in #22137.

---

This PR used to depend on #23371 (to make simp support `Disjoint` well): that PR has performance implications which make it undesirable to merge directly. If the PR can be made to work, these proofs can be adjusted in the future: let us not block this work on this happening.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Image.lean [hunk 1]
```diff
@@ -814,10 +814,26 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
 theorem compl_range_inr : (range (Sum.inr : β → α ⊕ β))ᶜ = range (Sum.inl : α → α ⊕ β) :=
   IsCompl.compl_eq isCompl_range_inl_range_inr.symm
 
+@[simp]
+theorem image_inl_inter_image_inr {X Y} (u : Set X) (v : Set Y) :
+    Sum.inl '' u ∩ Sum.inr '' v = ∅ := by
+  apply subset_empty_iff.mp
```
Comment (grunweg) [inline Mathlib/Data/Set/Image.lean:820]:
```suggestion
  rw [← subset_empty_iff]

File: Mathlib/Data/Set/Image.lean [hunk 2]
```diff
@@ -814,10 +814,26 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
...
+  intro x hx
+  nomatch hx
+
+theorem preimage_sumElim_eq {f : α → γ} {g : β → γ} (S : Set γ) :
```
Comment (grunweg) [inline Mathlib/Data/Set/Image.lean:824]: Can you name the variable `s`, for consistency with most of this file (and mathlib style)? Thanks!

File: Mathlib/Data/Set/Image.lean [hunk 3]
```diff
@@ -814,10 +814,26 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
...
+  ext x
+  cases x <;> simp
+
 theorem image_preimage_inl_union_image_preimage_inr (s : Set (α ⊕ β)) :
     Sum.inl '' (Sum.inl ⁻¹' s) ∪ Sum.inr '' (Sum.inr ⁻¹' s) = s := by
-  rw [image_preimage_eq_inter_range, image_preimage_eq_inter_range, ← inter_union_distrib_left,
-    range_inl_union_range_inr, inter_univ]
+  rw [← preimage_sumElim_eq, Sum.elim_inl_inr, preimage_id]
+
+theorem image_sumElim_eq {f : α → γ} {g : β → γ} (S : Set (α ⊕ β)) :
```
Comment (grunweg) [inline Mathlib/Data/Set/Image.lean:833]: Same here.

**Review by grunweg — COMMENTED** [review]
Very minor comments: otherwise, this is good to go. Thanks for extracting this PR!

**Comment by grunweg** [comment]
Thanks!
maintainer merge

**Review by grunweg — COMMENTED** [review]
I'm unsure about the permuted lemmas: if mathlib policy is to keep the duplicates, or not. I'm asking on zulip now. (Otherwise, this looks good to me.)

You're not using them downstream, right?

File: Mathlib/Data/Set/Image.lean [hunk 4]
```diff
@@ -814,10 +814,51 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
 theorem compl_range_inr : (range (Sum.inr : β → α ⊕ β))ᶜ = range (Sum.inl : α → α ⊕ β) :=
   IsCompl.compl_eq isCompl_range_inl_range_inr.symm
 
+section
+variable (u : Set α) (v : Set β)
+open Sum
+
+@[simp]
+theorem image_inl_inter_image_inr : inl '' u ∩ inr '' v = ∅ := by
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Image.lean:822]: I'd argue this should be stated with `Disjoint`

File: Mathlib/Data/Set/Image.lean [hunk 5]
```diff
@@ -814,10 +814,51 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
...
+  rw [← subset_empty_iff]
+  intro x hx
+  nomatch hx
+
+@[simp]
+theorem image_inr_inter_image_inl : inr '' u ∩ inl '' v = ∅ := by
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Set/Image.lean:828]: I agree that we probably don't want this copy.

[the remark this answers is not in the document]
Comment (plp127) [reply Mathlib/Data/Set/Image.lean:828]: I permitted these lemmas so that `simp` would find them, but if you don't think that's useful then I can revert it.

File: Mathlib/Data/Set/Image.lean (hunk 4 above)
Comment (plp127) [reply Mathlib/Data/Set/Image.lean:822]: `@[simp]` doesn't work with `Disjoint`, but if you can find a way around that then I'll change it.

Comment (eric-wieser) [reply Mathlib/Data/Set/Image.lean:822]: I think that's a separate problem. If `simp` can't use `Disjoint`, perhaps we should teach it to?

Maybe @YaelDillies has some opinions here, but a Zulip thread might also be appropriate.

Comment (plp127) [reply Mathlib/Data/Set/Image.lean:822]: If we do switch to `Disjoint`, should I also change `range_inl_inter_range_inr` and `range_inr_inter_range_inl`?

Comment (YaelDillies) [reply Mathlib/Data/Set/Image.lean:822]: > I think that's a separate problem. If simp can't use Disjoint, perhaps we should teach it to?

Yes, it sounds very reasonable to make `Disjoint.inter_eq_empty` a simp lemma

Comment (grunweg) [reply Mathlib/Data/Set/Image.lean:822]: Then `s \cap t = \emptyset` would become the simp normal form, right? Is this desirable?

Comment (YaelDillies) [reply Mathlib/Data/Set/Image.lean:822]: > Then `s \cap t = \emptyset` would become the simp normal form, right? Is this desirable?

No? Only that, given `Disjoint s t`, simp could now prove `s ∩ t = ∅`

Comment (plp127) [reply Mathlib/Data/Set/Image.lean:822]: > > I think that's a separate problem. If simp can't use Disjoint, perhaps we should teach it to?
> 
> Yes, it sounds very reasonable to make `Disjoint.inter_eq_empty` a simp lemma

I can't find this lemma :(

File: Mathlib/Data/Set/Image.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Data/Set/Image.lean:828]: I just removed this version.

**Comment by grunweg** [comment]
I believe I addressed all comments here: this PR is ready for review again.

File: Mathlib/Topology/Compactification/OnePoint.lean [hunk 6]
```diff
@@ -130,9 +130,7 @@ theorem range_coe_union_infty : range ((↑) : X → OnePoint X) ∪ {∞} = uni
 theorem insert_infty_range_coe : insert ∞ (range (@some X)) = univ :=
   insert_none_range_some _
 
-@[simp]
-theorem range_coe_inter_infty : range ((↑) : X → OnePoint X) ∩ {∞} = ∅ :=
-  range_some_inter_none X
+theorem range_coe_inter_infty : range ((↑) : X → OnePoint X) ∩ {∞} = ∅ := by simp
```
Comment (plp127) [inline Mathlib/Topology/Compactification/OnePoint.lean:133]: This looks like a one-line difference in an unrelated part of the library, I don't think it should go in this pr.

Comment (grunweg) [reply Mathlib/Topology/Compactification/OnePoint.lean:133]: I agree, it *looks* like this: but this actually fixes a simpNF linter error caused by marking `Disjoint.empty_eq` simp. (I'm equally happy to restore the old proof.)

File: Mathlib/Data/Set/Basic.lean [hunk 7]
```diff
@@ -130,6 +130,11 @@ instance PiSetCoe.canLift' (ι : Type u) (α : Type v) [Nonempty α] (s : Set ι
     CanLift (s → α) (ι → α) (fun f i => f i) fun _ => True :=
   PiSetCoe.canLift ι (fun _ => α) s
 
+@[simp]
+lemma Disjoint.inter_eq_empty {s t : Set α} (h : Disjoint s t) : s ∩ t = ∅ := by
```
Comment (urkud) [inline Mathlib/Data/Set/Basic.lean:134]: We already have `Disjoint.inter_eq`. If you tag this lemma as `@[simp]`, then `simp` will try to prove `Disjoint s t` every time it meets `s ∩ t` in a formula. Do we really want this?

File: Mathlib/Data/Set/Image.lean [hunk 8]
```diff
@@ -814,10 +814,43 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
 theorem compl_range_inr : (range (Sum.inr : β → α ⊕ β))ᶜ = range (Sum.inl : α → α ⊕ β) :=
   IsCompl.compl_eq isCompl_range_inl_range_inr.symm
 
+section
+
+open Sum
+
+@[simp]
+theorem image_inl_inter_image_inr (u : Set α) (v : Set β) : Disjoint (inl '' u) (inr '' v) := by
```
Comment (urkud) [inline Mathlib/Data/Set/Image.lean:822]: You can use `Set.disjoint_image_image` here.

Comment (urkud) [reply Mathlib/Data/Set/Image.lean:822]: Also, these lemmas talk about `Disjoint`, not intersections.

File: Mathlib/Data/Set/Basic.lean (hunk 7 above)
Comment (urkud) [reply Mathlib/Data/Set/Basic.lean:134]: I see that my question here goes contrary to what @eric-wieser and @YaelDillies  suggested earlier. Let's bench to see if it slows down compilation.

**Comment by urkud** [comment]
!bench

File: Mathlib/Data/Set/Image.lean [hunk 9]
```diff
@@ -814,10 +814,19 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
 theorem compl_range_inr : (range (Sum.inr : β → α ⊕ β))ᶜ = range (Sum.inl : α → α ⊕ β) :=
   IsCompl.compl_eq isCompl_range_inl_range_inr.symm
 
+theorem preimage_sumElim_eq (s : Set γ) (f : α → γ) (g : β → γ) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean:817]:
```suggestion
theorem preimage_sumElim (s : Set γ) (f : α → γ) (g : β → γ) :
```

File: Mathlib/Data/Set/Image.lean [hunk 10]
```diff
@@ -814,10 +814,19 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
...
+    Sum.elim f g ⁻¹' s = Sum.inl '' (f ⁻¹' s) ∪ Sum.inr '' (g ⁻¹' s) := by
+  ext x
+  cases x <;> simp
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean:820]:
```suggestion
  ext (_ | _) <;> simp
```

File: Mathlib/Data/Set/Image.lean [hunk 11]
```diff
@@ -814,10 +814,19 @@ theorem compl_range_inl : (range (Sum.inl : α → α ⊕ β))ᶜ = range (Sum.i
...
+
 theorem image_preimage_inl_union_image_preimage_inr (s : Set (α ⊕ β)) :
     Sum.inl '' (Sum.inl ⁻¹' s) ∪ Sum.inr '' (Sum.inr ⁻¹' s) = s := by
-  rw [image_preimage_eq_inter_range, image_preimage_eq_inter_range, ← inter_union_distrib_left,
-    range_inl_union_range_inr, inter_univ]
+  rw [← preimage_sumElim_eq, Sum.elim_inl_inr, preimage_id]
+
+theorem image_sumElim_eq (s : Set (α ⊕ β)) (f : α → γ) (g : β → γ) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean:826]:
```suggestion
theorem image_sumElim (s : Set (α ⊕ β)) (f : α → γ) (g : β → γ) :
```

File: Mathlib/Data/Set/Image.lean [hunk 12]
```diff
@@ -1373,6 +1382,27 @@ theorem preimage_eq_empty_iff {s : Set β} : f ⁻¹' s = ∅ ↔ Disjoint s (ra
     exact h x hy,
   preimage_eq_empty⟩
 
+section
+
+@[simp]
+theorem disjoint_image_inl_image_inr (u : Set α) (v : Set β) :
+    Disjoint (Sum.inl '' u) (Sum.inr '' v) :=
+  disjoint_image_image fun b hb c hc ↦ (by simp)
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean:1390]:
```suggestion
  disjoint_image_image <| by simp
```

File: Mathlib/Data/Set/Image.lean [hunk 13]
```diff
@@ -1373,6 +1382,27 @@ theorem preimage_eq_empty_iff {s : Set β} : f ⁻¹' s = ∅ ↔ Disjoint s (ra
     exact h x hy,
   preimage_eq_empty⟩
 
+section
+
+@[simp]
+theorem disjoint_image_inl_image_inr (u : Set α) (v : Set β) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean:1388]:
```suggestion
theorem disjoint_image_inl_image_inr {u : Set α} {v : Set β} :
```
since it's not a rewriting lemma

**Review by YaelDillies — COMMENTED** [review]
I think for good measure `Disjoint.eq_bot` and the analogous lemma for finsets should both be marked as simp, and I would prefer all those simp changes to be in a separate PR since they are clearly more disruptive than the rest and quite different.

EDIT: Actually I think the rest of the PR doesn't depend on these changes? So extra points for splitting them off

**Comment by grunweg** [comment]
I created #23371 for just the simp changes, and also marked `Disjoint.eq_bot` with simp.
I can't find an analogous finset lemma though: [Finset.disjoint_iff_inter_eq_empty](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Lattice/Lemmas.html#Finset.disjoint_iff_inter_eq_empty) is an iff, as is [Finset.sup_eq_bot_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Lattice/Fold.html#Finset.sup_eq_bot_iff) (which in addition looks a bit different). Can you elaborate what you meant?

**Comment by grunweg** [comment]
I just tried (adding a version of Disjoint.inter_eq for finsets in Data/Finset/Disjoint), and get an error `failed to synthesize Inter (Finset α)`.

**Comment by plp127** [comment]
> I just tried (adding a version of Disjoint.inter_eq for finsets in Data/Finset/Disjoint), and get an error `failed to synthesize Inter (Finset α)`.

Intersection for finsets needs decidableeq

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by grunweg** [comment]
My understanding of #23371 is that making simp handle `Disjoint` comes with a performance penalty which is too large as-is. There may be a way to reduce it, but that's not obvious (and I don't have time right now to look into that). Thus, I propose we change course slightly: don't take the lemma as simp (and manually add it to the few simp calls which need it.

**Comment by grunweg** [comment]
I just pushed a commit doing so (which only reverts changes I made, so that feels fine for me... assuming it passes CI). What do you think @plp127 @YaelDillies?

File: Mathlib/Topology/Compactification/OnePoint.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Topology/Compactification/OnePoint.lean]: Since I removed the simp changes, this diff was also removed.

File: Mathlib/Data/Set/Image.lean [hunk 14]
```diff
@@ -1378,6 +1386,27 @@ theorem preimage_eq_empty_iff {s : Set β} : f ⁻¹' s = ∅ ↔ Disjoint s (ra
...
 
+section
+
+@[simp]
+theorem disjoint_image_inl_image_inr {u : Set α} {v : Set β} :
+    Disjoint (Sum.inl '' u) (Sum.inr '' v) :=
+  disjoint_image_image <| by simp
+
+@[simp]
+theorem disjoint_range_inl_image_inr (v : Set β) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean]:
```suggestion
theorem disjoint_range_inl_image_inr {v : Set β} :
```

File: Mathlib/Data/Set/Image.lean [hunk 15]
```diff
@@ -1378,6 +1386,27 @@ theorem preimage_eq_empty_iff {s : Set β} : f ⁻¹' s = ∅ ↔ Disjoint s (ra
     exact h x hy,
   preimage_eq_empty⟩
 
+section
+
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean]: Do we really need this `section`?

File: Mathlib/Data/Set/Image.lean [hunk 16]
```diff
@@ -1378,6 +1386,27 @@ theorem preimage_eq_empty_iff {s : Set β} : f ⁻¹' s = ∅ ↔ Disjoint s (ra
...
+  disjoint_image_image <| by simp
+
+@[simp]
+theorem disjoint_range_inl_image_inr (v : Set β) :
+    Disjoint (α := Set (α ⊕ β)) (range Sum.inl) (Sum.inr '' v) := by
+  rw [← image_univ]
+  apply disjoint_image_inl_image_inr
+
+@[simp]
+theorem disjoint_image_inl_range_inr (u : Set α) :
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Image.lean]:
```suggestion
theorem disjoint_image_inl_range_inr {u : Set α} :
```

**Review by YaelDillies — APPROVED** [review]
Yeah, I think this makes sense

maintainer delegate

**Comment by jcommelin** [comment]
bors d+

File: Mathlib/Data/Set/Image.lean (hunk 15 above)
Comment (plp127) [reply Mathlib/Data/Set/Image.lean]: I guess not anymore

**Comment by plp127** [comment]
bors merge

**Comment by ghost** [comment]
!bench

**Comment by plp127** [comment]
!bench

**Comment by grunweg** [comment]
Benchmarks look good: let me remove that label.

**Comment by plp127** [comment]
bors merge
